US06248900B1
Preparation of 5-propoxy-4-methyl-2,4-dihydro-1,2,4-triazol-3-one
693.6 g (94.4%) of methyl N′-dipropoxymethylenehydrazinecarboxylate (3 mol) were dissolved in 1752 g of methanol and admixed with 564.7 g (6 mol) of methylamine, dissolved in ethanol, and the mixture was heated in an autoclave at 100° C. for 20 hours. The reaction mixture was concentrated under reduced pressure, the residue was taken up in water (880 ml) the mixture was extracted with methylene chloride and the extract was concentrated under reduced pressure. The crystals which precipitated out on cooling were filtered off and dried. This gave 383 g (71.2%, content 87.6%) of 5-propoxy-4-methyl-2,4-dihydro-1,2,4-triazol-3-one in the form of a solid. Melting point: 72.5-73.5° C.

reactant | methyl N′-dipropoxymethylenehydrazinecarboxylate | 3 mol, 693.6 g | C(CC)OC(=NNC(=O)OC)OCCC | C9H18N2O4
reactant | methylamine | 6 mol, 564.7 g | CN | CH5N
solvent | methanol | 1752 g | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 5-propoxy-4-methyl-2,4-dihydro-1,2,4-triazol-3-one | C(CC)OC=1N(C(NN1)=O)C | C6H11N3O2
